US06605604B1
Step a: 4-Bromophenethyl thioacetate
5 mmol (1 ml) of DIAD are added to a solution, cooled to 0° C., of 5 mmol (1.32 g) of triphenylphosphine in 16 ml of tetrahydrofuran. After stirring the mixture cold for 15 minutes, there is added dropwise thereto a mixture of 2.5 mmol (0.5 g) of 2-(4-bromophenyl)-1-ethanol and 5 mmol (0.83 ml) of thioacetic acid diluted with 5 ml of tetrahydrofuran. The mixture is stirred cold for a further 10 minutes and then the temperature is brought to ambient temperature for 18 hours. The solvents are evaporated off. The residue is taken up in diisopropyl ether and the precipitate formed is filtered off. The filtrate is concentrated and then purified by chromatography on silica gel. using petroleum ether as eluant, to yield the expected product.

reactant | DIAD | 5 mmol, 1 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 5 mmol, 1.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(4-bromophenyl)-1-ethanol | 2.5 mmol, 0.5 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | thioacetic acid | 5 mmol, 0.83 ml | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-Bromophenethyl thioacetate | C(C)(=S)OCCC1=CC=C(C=C1)Br | C10H11BrOS
